US07713994B2
3-Aminomethyl-4-furan-2-yl-phenol
2-Furan-2-yl-5-hydroxy-benzonitrile (100 mg, 0.54 mmol) is dissolved in EtOH (10 mL) to which Raney Ni (excess) is added. The mixture is subjected to hydrogenation under H2 (50 psi) for overnight. The mixture is then filtered and solvent removed to afford the crude product, which is carried over to the next step without further purification.

reactant | 2-Furan-2-yl-5-hydroxy-benzonitrile | 0.54 mmol, 100 mg | O1C(=CC=C1)C1=C(C#N)C=C(C=C1)O | C11H7NO2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | Ni | [Ni] | Ni
product | 3-Aminomethyl-4-furan-2-yl-phenol | NCC=1C=C(C=CC1C=1OC=CC1)O | C11H11NO2
